US05068449
23.6 g (0.3 mol) of acetyl chloride was added to a mixture comprising 29.7 g (0.2 mol) of 1-chloro-3,4-difluorobenzene and 40.0 g (0.3 mol) of aluminum chloride at a temperature of from 20° to 40° C. Then, the mixture was stirred at 120° C. for two hours. While still being hot, the mixture was poured on 250 g of ice, and the separated oil was extracted with ethylene chloride. The extract was neutralized and washed with water, and the solvent was distilled off under reduced pressure to obtain 31.2 g (yield: 82%) of 2-chloro-4,5-difluoroacetophenone. This compound was analyzed, and the analytical values were as follows.

reactant | acetyl chloride | 0.3 mol, 23.6 g | C(C)(=O)Cl | C2H3ClO
reactant | 1-chloro-3,4-difluorobenzene | 0.2 mol, 29.7 g | ClC1=CC(=C(C=C1)F)F | C6H3ClF2
reactant | aluminum chloride | 0.3 mol, 40.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-chloro-4,5-difluoroacetophenone | 31.2 g, yield: 82% | CC(=O)C1=CC(=C(C=C1Cl)F)F | C8H5ClF2O
